US07517896B2
Methyl 4-{[{2-[(4′-chloro[1,1′-biphenyl]-4-yl)methoxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate (by Process F)
300.0 mg (0.51 mmol) of methyl 4-{[{2-[(4-bromobenzyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate from Ex. 4 are initially charged in 3 ml of dimethoxyethane and admixed successively with 101.7 mg (0.62 mmol) of 4-chlorophenylboronic acid and 0.57 ml of 2M sodium carbonate solution. 10.0 mg of dichlorobis(triphenylphosphine)palladium(II) are added, and the mixture is then heated at reflux temperature for 18 hours. The reaction solution is cooled, admixed with 20 ml of ethyl acetate and washed successively with 5% strength sodium hydrogen phosphate solution, water and saturated sodium chloride solution. The organic phase is dried over magnesium sulphate and the solvent is distilled off under reduced pressure. The crude product is chromatographed over silica gel using the mobile phase cyclohexane/ethyl acetate=10:1.

reactant | methyl 4-{[{2-[(4-bromobenzyl)oxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate | 0.51 mmol, 300.0 mg | BrC1=CC=C(COC2=C(CCN(CCCCC(=O)OCC)CC3=CC=C(C(=O)OC)C=C3)C=CC=C2)C=C1 | C31H36BrNO5
reactant | 4-chlorophenylboronic acid | 0.62 mmol, 101.7 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 0.57 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 3 ml | C(OC)COC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 10.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-{[{2-[(4′-chloro[1,1′-biphenyl]-4-yl)methoxy]phenethyl}(5-ethoxy-5-oxopentyl)amino]methyl}benzoate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COC1=C(CCN(CCCCC(=O)OCC)CC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C37H40ClNO5
